US08623859B2
5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methyl-N-[4-(1,4,5,6-tetrahydropyrimidin-2-yl)benzyl]furan-3-carboxamide
The title compound was prepared according to general procedure AE using 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (60 mg, 0.16 mmol), CDI (48 mg, 0.29 mmol), N-methyl-1-[4-(1,4,5,6-tetrahydropyrimidin-2-yl)phenyl]methanamine dihydrochloride (42 mg, 0.15 mmol) and DIPEA (0.17 mL, 0.97 mmol) in DCE (2 mL).

reactant | 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.16 mmol, 60 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O)C | C16H19NO6S
reactant | CDI | 0.29 mmol, 48 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | N-methyl-1-[4-(1,4,5,6-tetrahydropyrimidin-2-yl)phenyl]methanamine dihydrochloride | 0.15 mmol, 42 mg | Cl.Cl.CNCC1=CC=C(C=C1)C=1NCCCN1
reactant | DIPEA | 0.97 mmol, 0.17 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
product | 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methyl-N-[4-(1,4,5,6-tetrahydropyrimidin-2-yl)benzyl]furan-3-carboxamide | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)N(CC1=CC=C(C=C1)C=1NCCCN1)C)C | C28H34N4O5S
